US06133258
The reaction procedure of Example 57 was followed except that 2.175 g (12.68 mmol) of 2-chloro-6-methylnicotinic acid, 15 ml of thionyl chloride, two droplets of DMF, 1.01 g of ammonium thiocyanate, 15 ml of acetone, 1.81 g of N-methyl-4-chloroaniline and 10 ml of acetone were used. The resulting crude product was then recrystallized from ethanol to obtain 1.58 g of 2-[N-(4-chlorophenyl)-N-methylamino)-7-methyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one.

reactant | 2-chloro-6-methylnicotinic acid | 12.68 mmol, 2.175 g | ClC1=C(C(=O)O)C=CC(=N1)C | C7H6ClNO2
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium thiocyanate | 1.01 g | [S-]C#N.[NH4+]
reactant | N-methyl-4-chloroaniline | 1.81 g | CNC1=CC=C(C=C1)Cl | C7H8ClN
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[N-(4-chlorophenyl)-N-methylamino)-7-methyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 1.58 g | ClC1=CC=C(C=C1)N(C)C=1SC2=C(C(N1)=O)C=CC(=N2)C | C15H12ClN3OS
